US05356885
A stream of ozone is passed through a -78° C. solution of 1.0 g of racemic 2-methyl-4-pentenoic acid phenylmethyl ester in 110 ml of methyl alcohol until the blue color persists. The excess zone is discharged by a stream of oxygen, followed by argon. One gram of zinc dust and 1.0 g of acetic acid is added and the resulting mixture allowed to warm to room temperature; followed by stirring for 1 hour. The excess zinc is removed by filtration and the filtrate is concentrated in vacuo. The residue is extracted with diethyl ether, filtered and the filtrate concentrated in vacuo. The residue is purified by pad filtration (silica gel, 50% diethyl ether/petroleum ether) to give 1.01 g of racemic 2-methyl-4-oxobutanoic acid phenylmethyl ester.

reactant | ozone | O=[O+][O-] | O3
reactant | racemic 2-methyl-4-pentenoic acid phenylmethyl ester | 1.0 g | C1(=CC=CC=C1)COC(C(CC=C)C)=O | C13H16O2
reactant | oxygen | O=O | O2
reactant | acetic acid | 1.0 g | C(C)(=O)O | C2H4O2
solvent | methyl alcohol | 110 ml | CO | CH4O
catalyst | zinc | One gram | [Zn] | Zn
product | racemic 2-methyl-4-oxobutanoic acid phenylmethyl ester | 1.01 g | C1(=CC=CC=C1)COC(C(CC=O)C)=O | C12H14O3
